US04288437
(E)-2-{[(Methylethyl)amino]phenylmethylene}-benzo[b]thiophen-3-(2H)-one
Prepared as in Example 1 from 2-benzoyl-benzo[b]thiophen-3-ol, phosphorus(V) chloride and an aqueous 38.5% isopropylamine solution with a yield of 54% of theory. M.P. 112°-113° C. (ethyl acetate/petroleum ether 1:1).

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | isopropylamine | C(C)(C)N | C3H9N
product | (E)-2-{[(Methylethyl)amino]phenylmethylene}-benzo[b]thiophen-3-(2H)-one | yield of 54% | CC(C)N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C18H17NOS
